### PR TITLE
Bump to lean v4.17.0

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**

### CODE REVIEW

File: Carleson/Classical/SpectralProjectionBound.lean [hunk 1]
```diff
@@ -41,6 +41,7 @@ lemma partialFourierSumL2_norm {T : ℝ} [hT : Fact (0 < T)] [h2 : Fact (1 ≤ (
       simp_rw [LinearMapClass.map_smul]
     _ = ∑ n ∈ Finset.Icc (-Int.ofNat N) N, ‖fourierCoeff f n‖ ^ (2 : ℝ) := by
       rw [← coe_fourierBasis]
+      stop
```
Comment (Ruben-VandeVelde) [inline Carleson/Classical/SpectralProjectionBound.lean:44]: Not sure what's wrong here

File: Carleson/Classical/ControlApproximationEffect.lean [hunk 2]
```diff
@@ -107,21 +107,20 @@ lemma Dirichlet_Hilbert_diff {N : ℕ} {x : ℝ} (hx : x ∈ Set.Icc (-π) π) :
...
+      rw [Real.norm_of_nonneg (by simp)]
       gcongr
       · apply min_le_left
-      · simpa
       · rw [mul_assoc I, mul_comm I]
         norm_cast
-        rw [abs_exp_ofReal_mul_I]
-      · rw [←abs_conj, map_sub, map_one, ←exp_conj, ← neg_mul, map_mul, conj_I, conj_ofReal]
+        rw [norm_exp_ofReal_mul_I]
+      · rw [← norm_conj, map_sub, map_one, ←exp_conj, ← neg_mul, map_mul, conj_I, conj_ofReal]
```
Comment (grunweg) [inline Carleson/Classical/ControlApproximationEffect.lean:117]: pre-existing: the style (spacing after \l or not) is inconsistent, but should match mathlib

File: Carleson/Classical/HilbertKernel.lean [hunk 3]
```diff
@@ -159,31 +159,31 @@ lemma Hilbert_kernel_regularity_main_part {y y' : ℝ} (yy'nonneg : 0 ≤ y ∧
...
+          simp only [norm_div, norm_pow]
           gcongr
-          · calc abs (-1 + exp (-(I * ↑t)) +
-              I * (↑t - 1) * exp (-(I * ↑t)))
-              _ ≤ abs (-1 + exp (-(I * ↑t))) +
-                abs (I * (↑t - 1) * exp (-(I * ↑t))) :=
-                  abs.isAbsoluteValue.abv_add ..
-              _ ≤ abs (-1 : ℂ) + abs (exp (-(I * ↑t))) +
-                abs (I * (↑t - 1) * exp (-(I * ↑t))) := by
+          · calc ‖(-1 + exp (-(I * ↑t)) +
```
Comment (grunweg) [inline Carleson/Classical/HilbertKernel.lean:164]: up to you if you want to reflow some lines here

**Review by grunweg — APPROVED** [review]
Thanks! I only noticed two pre-existing style issues - up to you if you want to fix those as well. Otherwise, I will merge this PR soon.

**Comment by Ruben-VandeVelde** [comment]
I'll leave the style issues for some other time

**Comment by grunweg** [comment]
In that case, let me merge your PR already. Thanks again for bumping mathlib!

**Comment by fpvandoorn** [comment]
Thanks!

@grunweg @Ruben-VandeVelde Whenever bumping Mathlib, please also modify the `docbuild/lakefile.toml`. We're not currently running doc-gen CI on PRs, so this error is unfortunately not caught before merging. See e.g. https://github.com/fpvandoorn/carleson/commit/8fa476ac64305a1a233d0c9d6b4d3f54ecad54c1

I just pushed a fix.

**Comment by pitmonticone** [comment]
Yes, I'll automate this soon
